US04753953
7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-8-chloro-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 7-(cis-3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-8-chloro-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.13 g) in methanol (1.5 ml) and concentrated hydrochloric acid (1.5 ml) was stirred at room temperature for 30 minutes. The reacting mixture was neutralized with concentrated aqueous ammonia and then cooled. The resulting precipitate was collected by filtration and washed with water, methanol and ether successively to give the title compound (0.05 g) as pale yellow powder, mp 234°-236° C. (decompd.).

reactant | 7-(cis-3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-8-chloro-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.13 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1Cl)CCF)C(=O)O)=O)F | C22H26ClF2N3O5
reactant | ammonia | N | H3N
solvent | methanol | 1.5 ml | CO | CH4O
solvent | hydrochloric acid | 1.5 ml | Cl | ClH
product | 7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-8-chloro-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.05 g | N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1Cl)CCF)C(=O)O)=O)F | C17H18ClF2N3O3
